US05344828
Ethyl 4-(11H-Dibenz[b,e]azepin-6-yl)-1-piperazinepropionate
A mixture of 2.77 g of 6-(1-piperazinyl)-11H-dibenz[b,e]azepine and 1.20 g of ethyl acrylate in 14 ml of ethanol was refluxed for 2 hrs. The reaction mixture was concentrated and the residue was chromatographed on silica gel using a mixture of n-hexane and ethyl acetate (1:1) as an eluent to give 3.25 g of colorless crystals, which were recrystallized from isopropyl ether to give colorless prisms, mp 133°-134° C.

reactant | 6-(1-piperazinyl)-11H-dibenz[b,e]azepine | 2.77 g | N1(CCNCC1)C=1C2=C(CC3=C(N1)C=CC=C3)C=CC=C2 | C18H19N3
reactant | ethyl acrylate | 1.20 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | Ethyl 4-(11H-Dibenz[b,e]azepin-6-yl)-1-piperazinepropionate | 3.25 g | C1=CC=CC=2N=C(C3=C(CC21)C=CC=C3)N3CCN(CC3)CCC(=O)OCC | C23H27N3O2
